US08802659B2
3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid methyl ester
3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid tert-butyl ester (0.174 g, 0.343 mmol) was dissolved in 4 M of Hydrogen chloride in 1,4-Dioxane (3 mL, 10 mmol) and stirred at RT for 2.5 hrs. ALL solvent is removed after purification of the previous step. Reaction was then concentrated to dryness under reduced pressure to give the title compound which was taken directly to the next step.

reactant | 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid tert-butyl ester | 0.343 mmol, 0.174 g | C(C)(C)(C)OC(CCNC(C(F)(F)F)C1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C29H40F3NO3
reactant | 1,4-Dioxane | 10 mmol, 3 mL | O1CCOCC1 | C4H8O2
solvent | Hydrogen chloride | 4 M | Cl | ClH
product | 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid methyl ester | COC(CCNC(C(F)(F)F)C1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C26H34F3NO3
